US05243042
Four portions of benzyloxycarbonyl isothiocyanate (Caution: stench, handle in a well ventilated hood only, crude, 2.0 g each, total 41 mmol) were added to a solution of 5-amino-1-(2,3,5-tris-O-acetyl-β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid diphenylmethyl ester (1.1 g, 2 mmol) in CH2Cl2 (10 mL) at 0 h, 6 h, 22 h and 30 h. The reaction mixture was stirred at room temperature under an argon atmosphere for a total of 46 h after the addition of the first portion of benzyloxycarbonyl isothiocyanate, then chromatographed on silica gel (100 g, column packed in CH2Cl2, 100-mL fractions), with CH2Cl2 (100 mL), followed by 25% EtOAc in CH2Cl2 as the eluant. Fractions 6 to 11 were combined, concentrated, and pumped under reduced pressure to give 1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-5-[[[[(phenylmethoxy)carbonyl]amino]thioxomethyl]amino]-1H-imidazole-4-carboxylic acid diphenylmethyl ester as a pale yellow foam: 1.46 g (98% yield); IR (CHCl3) 3405, 3250, 3200, 1750, 1738, 1600, and 1505 cm-1 ; HRMS [(+) FAB] m/z found 767.2060 [calcd for C37H36N4NaO11S, 767.1999 (M+Na+)], 745.2297 [calcd for C37H37N4O11S, 745.2180 (M+H+)]; NMR (CDCl3)δ2.04 (s, 3), 2.10 (s, 3), 2.13 (s, 3), 4.33 (m, 2), 4.39 (m, 1), 5.10 (s, 2), 5.35 (m, 1), 5.52 (m, 1), 5.87 (m, 1), 7.10 (s, 1), 7.32 (m, 15), 7.87 (s, 1), 8.16 (s, 1), 10.95 (s, 1); UV max (95% C2H5OH) 215 nm (sh, ε35000), 266 (13850).

reactant | benzyloxycarbonyl isothiocyanate | C(C1=CC=CC=C1)OC(=O)N=C=S | C9H7NO2S
reactant | 5-amino-1-(2,3,5-tris-O-acetyl-β-D-ribofuranosyl)-1H-imidazole-4-carboxylic acid diphenylmethyl ester | 2 mmol, 1.1 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N=CN(C1N)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C28H29N3O9
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-5-[[[[(phenylmethoxy)carbonyl]amino]thioxomethyl]amino]-1H-imidazole-4-carboxylic acid diphenylmethyl ester | 98% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N=CN(C1NC(=S)NC(=O)OCC1=CC=CC=C1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C37H36N4O11S
